US04791139
Stage 3: Preparation of 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanal
To a solution of methyl 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanoate (2.0 g, 7.2×10-3 moles) in toluene (25 cm3) at -78° C. was added one molar diisobutylaluminium hydride (7.2 ml, 7.2×10-3 moles) in toluene. The resulting solution was stirred at -78° C. for two hours before quenching the reaction by the sequential addition of acetic acid (0.48 cm3, 8.4×10-3 moles), water (1 cm3) and sodium sulphate (10 g). The resulting slurry was allowed to warm to room temperature and after a further twenty minutes stirring the solids were filtered off through a silica plug. The solvent was removed to leave a colourless oil which was characterised as the title compound.

reactant | methyl 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanoate | 7.2×10-3 moles, 2.0 g | C(C)OC1=CC=C(C=C1)C(CC(=O)OC)C(F)(F)F | C13H15F3O3
reactant | diisobutylaluminium hydride | 7.2×10-3 moles, one molar, 7.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid | 8.4×10-3 moles, 0.48 cm3 | C(C)(=O)O | C2H4O2
reactant | sodium sulphate | 10 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 25 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 cm3 | O | H2O
product | 3-(4-ethoxyphenyl)-4,4,4-trifluorobutanal | C(C)OC1=CC=C(C=C1)C(CC=O)C(F)(F)F | C12H13F3O2
